US07887824B2
Synthesis of N,N′-bis(2-hydroxyethyl)sulfamide (Compound 10)
17 g of sulfonylbisoxazolidinone are added to 2N sodium hydroxide solution (170 ml of water for 13.6 g of NaOH) and placed under stirring. After a strong evolution of CO2, the reaction medium is stirred for 3 days at room temperature. The reaction medium is then passed through Dowex® 50WX8-200 resin (sold by Aldrich). The resin is filtered through a sinter funnel and the filtrate is concentrated under vacuum. The residue is purified by flash chromatography on silica (eluent: 8/2 EtOAc/MeOH). The volatile materials are evaporated off under vacuum to give a colourless oil (87% yield).

reactant | sulfonylbisoxazolidinone | 17 g | S(=O)(=O)(N1C(OCC1)=O)N1C(OCC1)=O | C6H8N2O6S
reactant | CO2 | C(=O)=O | CO2
solvent | sodium hydroxide | 2N, 170 ml, 13.6 g | [OH-].[Na+]
product | N,N′-bis(2-hydroxyethyl)sulfamide | 87% yield | OCCNS(=O)(=O)NCCO | C4H12N2O4S
